Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Left medial tibial plateau fracture
 
Major Surgical or Invasive Procedure:
Open reduction internal fixation left medial tibial plateau 
fracture

 
History of Present Illness:
___ female ___ a history of arthritis, hypothyroidism presented 
with left medial tibial plateau fracture s/p mechanical fall.  
Patient was working at a ___ house when she tripped and fell, 
striking left knee and right wrist on stairs.  Had pain in both. 
 Unable to bear weight on left knee without pain.  Seen at 
outside hospital, x-ray right wrist unremarkable.  X-ray left 
knee notable for fracture in the medial tibial plateau with 
spiral component into medial proximal tibia.  Patient denied 
numbness, tingling, weakness in left lower extremity.  Pain with 
any motion.  Patient was transferred in a knee immobilizer.
 
Past Medical History:
Rheumatoid arthritis
Hypothyroidism
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Physical Exam at Discharge

General: Well-appearing, breathing comfortably
MSK:
___:
ACE in place, dry in unlocked ___. 
No pain with passive stretch of toes
Fires ___, FHL, TA, GSC
SILT s/s/t/dp/sp
WWP
 
Pertinent Results:
See OMR for all pertinent labs and imaging results
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a left medial tibial plateau fracture and was admitted 
to the orthopedic surgery service. The patient was taken to the 
operating room on ___ for open reduction internal fixation 
of the left medial tibial plateau, which the patient tolerated 
well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition and after satisfactory 
recovery from anesthesia was transferred to the floor. The 
patient was initially given IV fluids and IV pain medications, 
and progressed to a regular diet and oral medications by POD#1. 
The patient was given ___ antibiotics and 
anticoagulation per routine. The patient's home medications were 
continued throughout this hospitalization, excluding her RA meds 
- methotrexate, Enbrel and leucovorin. The patient worked with 
___ who determined that discharge to <<>> was appropriate. 

The patient was also found to have a UTI with urinary frequency 
during admission. She was started on a 5 day course of Macrobid.

The ___ hospital course was otherwise unremarkable. The 
patient will hold her methotrexate for 6 weeks postoperatively, 
and hold Enbrel for 2 weeks postoperatively until re-evaluate in 
orthopaedic surgery clinic. 

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
touch-down weight bearing in the left lower extremity, and will 
be discharged on Lovenox for DVT prophylaxis. The patient will 
follow up with Dr. ___ routine. A thorough discussion was 
had with the patient regarding the diagnosis and expected 
post-discharge course including reasons to call the office or 
return to the hospital, and all questions were answered. The 
patient was also given written instructions concerning 
precautionary instructions and the appropriate follow-up care. 
The patient expressed readiness for discharge.

 
Medications on Admission:
Enbrel 50 mg/mL (0.98 mL) subcutaneous syringe subcutaneous
1 syringe(s) Once per week
 
methotrexate 2.5 mg tablet oral
7 tablet(s) Once per week
 
folic acid 1 mg tablet oral
1 tablet(s) Once Daily
  
levothyroxine 88 mcg capsule oral
1 capsule(s) Once Daily

alendronate 70 mg tablet oral
1 tablet(s) Once per week

leucovorin calcium 5 mg tablet oral
1 tablet(s) Once per week prior to methotrexate
 
Discharge Medications:
1.  Enoxaparin Sodium 40 mg SC QPM 
RX *enoxaparin 40 mg/0.4 mL 40 MG INJ DAILY Disp #*26 Syringe 
Refills:*0 
2.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H UTI 
Duration: 5 Days 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth twice a day Disp #*8 Capsule Refills:*0 
3.  FoLIC Acid 1 mg PO DAILY  
4.  Levothyroxine Sodium 88 mcg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left medial tibial plateau fracture

 
Discharge Condition:
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Touch-down weight bearing left lower extremity

MEDICATIONS:
  1)  Take Tylenol ___ every 6 hours around the clock. This is 
an over the counter medication.
  2) As you were not taking narcotic pain medications in the 
hospital, we did not prescribe you these medicines. 
  3) Continue taking levothyroxine as directed. Please stop 
methotrexate and leucovorin for 6 weeks. Please stop Enbrel 
until you are seen in follow-up at 2 weeks. 
   4)  Please finish your 5 day course of Macrobid for UTI
      
ANTICOAGULATION:
- Please take Lovenox 40 mg SC daily for 4 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Incision may be left open to air unless actively draining. If 
draining, you may apply a gauze dressing secured with paper 
tape.

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

THIS PATIENT IS EXPECTED TO REQUIRE <30 DAYS OF REHAB

Physical Therapy:
Daily intensive rehab as tolerated by patient
Touch-down weight bearing left lower extremity
ROMAT ___ brace at all times until ortho follow-up

Treatments Frequency:
Any staples or superficial sutures you have are to remain in 
place for at least 2 weeks postoperatively.  Incision may be 
left open to air unless actively draining.  If draining, you may 
apply a gauze dressing secured with paper tape.  You may shower 
and allow water to run over the wound, but please refrain from 
bathing for at least 4 weeks postoperatively.

Please remain in the splint until follow-up appointment.  Please 
keep your splint dry.  If you have concerns regarding your 
splint, please call the clinic at the number provided.

Call your surgeon's office with any questions.
 
Followup Instructions:
___